US05260399
(C6H5)2PCHCHP(C6H5)2 ;
(C6H5)2PCH2CH2P(C6H5)2 ; (CH3CH2)2PCH2CH2P(CH2CH3)2 ; (CH3)2PCH2CH2P(CH3)2; (C6H5)2PCH2P(C6H5)2 ; and [(C6H5)2PCH2CH2 ]2P(C6H5).

reactant | (C6H5)2PCH2CH2P(C6H5)2 | P(C1=CC=CC=C1)(C1=CC=CC=C1)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
reactant | (CH3CH2)2PCH2CH2P(CH2CH3)2 | P(CC)(CC)CCP(CC)CC | C10H24P2
reactant | (CH3)2PCH2CH2P(CH3)2 | P(C)(C)CCP(C)C | C6H16P2
reactant | (C6H5)2PCH2P(C6H5)2 | P(C1=CC=CC=C1)(C1=CC=CC=C1)CP(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22P2
product | (C6H5)2PCHCHP(C6H5)2 | P(C1=CC=CC=C1)(C1=CC=CC=C1)C=CP(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22P2
